US04218457
To a suspension of aminomalonamide (7.13 g) in anhydrous ethanol (240 ml) were added triethyl orthopropionate (42.93 g) and concentrated sulfuric acid (1.6 g). The reaction mixture was refluxed for 2 hours and then ice-cooled. The precipitate product was filtered and washed with ethanol, isopropylether to give 2-ethyl-5-hydroxy-1H-imidazole-4-carboxamide (6.02 g).

reactant | aminomalonamide | 7.13 g | NC(C(=O)N)C(=O)N | C3H7N3O2
reactant | triethyl orthopropionate | 42.93 g | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | sulfuric acid | 1.6 g | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 240 ml | C(C)O | C2H6O
product | 2-ethyl-5-hydroxy-1H-imidazole-4-carboxamide | 6.02 g | C(C)C=1NC(=C(N1)C(=O)N)O | C6H9N3O2
